Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Augmentin
 
Attending: ___.
 
Chief Complaint:
Rash
 
Major Surgical or Invasive Procedure:
Skin biopsy ___
 
History of Present Illness:
Mr. ___ is a ___ gentleman who denies any medical
history presents with a diffuse non-painful and non-pruritic 
rash
that began after he received amoxicillin for a sore throat. 

Last ___ the patient went to his PCP's office with
subjective fevers, sore throat, and swollen and painful cervical
lymph nodes. A CT scan was performed which showed inflammation 
of
the b/l submandibular lymph nodes. He was started on ___. On ___ he noticed a non-painful and non-prupritic red and
purplish papular rash on his chest that quickly spread 
throughout
his body over his arms, palms, legs, back, and neck. The rash
spared his face and he did not develop any oral lesions. He
returned to his PCP's office and was switched to Cefitin from
augmentin. He was also started on prednisone and Benadryl. Over
the following 2 days the rash continued to worsen and he began 
to
develop some blistering over some of the larger lesions on his
arm. Given progression of his rash despite prednisone and
Benadryl, he presented to the ___ ED on ___. At
___, he was afebrile normotensive, and 100% on RA. He was
transferred to ___ ED out of concern for SJS. 

In the ED, initial VS were:
98.4 98 170/94 18 96% RA 

Exam notable for: Extensive maculopapular rash over torso as 
well
as palms but not soles. There is no mucous membrane involvement
in his oropharynx, no palatal petechiae.

Labs showed:
- WBC 13.4, N 18, L 8.4, E 1.9, ___ 0.7 
- Hgb 12.2 (unknown baseline) 
- Bicarb 20, Agap 19
- Normal Creatinine 
- Normal LFTs 

Imaging showed:
CXR without acute intrathoracic process

Consults: Derm was consulted but did not see the patient because
it was ___ 

Patient received:
- Methylpred 125 mg IV
- Benadryl 50mg IV 

On arrival to the floor, the patient is comfortable and has no
complaints other than his rash. His sore throat has resolved. He
denies any pain or lesions in his mouth or on his eyes. No
headache, vision changes, lightheadedness, dizziness, chest 
pain,
cough, or dyspnea. He denies any recent travel, tick bites,
bug/animal bites, or known sick contacts.  
 
Past Medical History:
Denies any past medical problems. 
 
Social History:
___
Family History:
No known history of rashes or bad reactions to
medications 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
___ ___ Temp: 98.6 PO BP: 124/60 L Lying HR: 78 RR: 22
O2 sat: 97% O2 delivery: ra Dyspnea: 0 RASS: 0 Pain Score: ___ 

The exam is notable for a patient in no distress,
comfortable-appearing. He is oriented x4. His oral mucosa is
moist and clear of lesions, ulcerations, or petechiae. His eyes
are slightly injected but no ulcerations or concerning lesions.
His neck is large without palpable lymph nodes. His
cardiopulmonary exam is normal. He is not wheezing. His abdomen
is obese, soft, and non-tender. His legs are warm without edema.
His pulses are palpable in all extremities. CN II-XII are intact
and he has ___ strength in all extremities. 
SKIN exam is notable for diffuse smooth papules, plaques,
macules, and patches over the torso, legs, arms, and palms but
spares the soles of his feet, face, and mucosal surfaces. The
rash coalesces in the intertriginous areas with occasional
overlying vesicles. The rash is non-blanching, non-tender, and
without drainage or weeping.

DISCHARGE PHYSICAL EXAM
==========================
VS: ___ ___ Temp: 98.4 PO BP: 110/66 L Sitting HR: 61 RR:
18 O2 sat: 99% O2 delivery: Ra 
___: well appearing, in no acute distress  
HEENT: Mild conjunctival injection bilaterally, 2-4 mm erosions
on bottom lip, petechiae on soft palate   
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present,
no rebound tenderness or guarding, no organomegaly  
Ext: warm, non-edematous, non-tender bilaterally  
Skin: Dozens of non-blanchable, erythematous papules and plaques
present on trunk, arms and legs. Involves his palms. There are
also ~half a dozen flaccid bullae on his right arm. Has two 
punch
biopsy sites, one on R medial thigh and one on R inner forearm,
with stitches in place.
Neuro: A&Ox3, moving all extremities with purpose 
 
Pertinent Results:
ADMISSION LABS 
==============
___ 11:11PM BLOOD WBC-13.4* RBC-4.00* Hgb-12.1* Hct-34.5* 
MCV-86 MCH-30.3 MCHC-35.1 RDW-13.5 RDWSD-42.6 Plt ___
___ 11:11PM BLOOD Neuts-86.4* Lymphs-8.4* Monos-2.5* 
Eos-1.9 Baso-0.1 Im ___ AbsNeut-11.54* AbsLymp-1.12* 
AbsMono-0.34 AbsEos-0.25 AbsBaso-0.02
___ 11:11PM BLOOD Glucose-137* UreaN-20 Creat-1.1 Na-135 
K-3.9 Cl-96 HCO3-20* AnGap-19*
___ 11:11PM BLOOD Albumin-3.5 Iron-30*
___ 11:11PM BLOOD calTIBC-268 Hapto-410* Ferritn-390 
TRF-206
___ 01:53AM BLOOD %HbA1c-6.1* eAG-128*

DISCHARGE LABS
=================
___ 04:40AM BLOOD WBC-13.6* RBC-3.57* Hgb-10.7* Hct-31.5* 
MCV-88 MCH-30.0 MCHC-34.0 RDW-13.6 RDWSD-44.2 Plt ___
___ 04:40AM BLOOD Neuts-58 Bands-0 ___ Monos-10 Eos-3 
Baso-0 Atyps-2* Metas-4* Myelos-0 AbsNeut-7.89* AbsLymp-3.40 
AbsMono-1.36* AbsEos-0.41 AbsBaso-0.00*
___ 04:40AM BLOOD Hypochr-NORMAL Anisocy-NORMAL Poiklo-1+* 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL Burr-1+* Tear 
Dr-1+* Ellipto-OCCASIONAL
___ 04:40AM BLOOD Plt Smr-NORMAL Plt ___
___ 04:40AM BLOOD Glucose-92 UreaN-21* Creat-0.7 Na-139 
K-4.5 Cl-101 HCO3-27 AnGap-11
___ 04:40AM BLOOD Calcium-8.6 Phos-3.8 Mg-2.4

PATHOLOGY:
___ skin biopsy
1. Skin, right thigh, biopsy (1A):
Leukocytoclastic vasculitis, see note.
Note: No vesicle is observed in this specimen, however, there is 
a subepidermal vesicle in the DIF
specimen. Dr. ___ notified Dr. ___ of the 
preliminary diagnosis on ___ at 5:45 p.m.
2. Skin, right upper arm, biopsy for direct immunofluorescence:
Dermal fibrinogen noted, however, no specific deposits are 
observed, see note.
Note: There are no deposits of IgG, IgA, IgM or C3 at the 
basement membrane zone, within the
epidermis, or within vessels. There is prominent dermal 
fibrinogen staining which may be observed
in small vessel vasculitis. There is a subepidermal split which 
may occur in some cases of
leukocytoclastic vasculitis.
 
Brief Hospital Course:
SUMMARY STATEMENT
==================
Mr. ___ is a ___ gentleman who denies any medical 
history presents with a diffuse non-painful and non-pruritic 
rash that began after he received amoxicillin for a sore throat. 
Problems addressed during his hospitalization are as follows:

#Leukocytoclastic Vasculitis secondary to Augmentin
The patient presented with diffuse non-blanchable erythematous 
papules and plaques involving the palms including several 
bullae. Initially concerning for vasculitis versus erythema 
multiforme versus ___ due to involvement of 
his mucous membranes. A skin biopsy was performed, which showed 
bullous leukocytoclastic vasculitis on preliminary pathology, 
may have initiated from augmentin exposure. Monospot, EBV, RPR, 
HIV, ___, and hepatitis serologies were negative. The patient 
was initially treated with IV MethylPREDNISolone (80-125 mg, 
last administered ___, which was discontinued without taper 
upon receipt of preliminary pathology results. At time of 
discharge, rash was overall improving and asymptomatic.

#Normocytic anemia. 
Unclear baseline. No evidence of bleeding, hemolysis, denies 
hematochezia or melena. ___ be mildly iron deficient.

#Leukocytosis:
Likely elevated in setting of steroid use. No infectious 
symptoms and CXR is without pneumonia. No evidence of cellulitis 
or superinfection of rash.

#Hyperglycemia:
No history of diabetes. Likely elevated in the setting of 
steroids. A1c 6.1.

Transitional issues:
=====================
[ ] Augmentin considered new allergy, however does not create 
fatal reaction, thus NOT an absolute contraindication
[ ] follow-up final skin biopsy pathology
[ ] continue to monitor diffuse skin rash
[ ] continue to w/u for normocytic anemia and consider age 
appropriate screening with colonoscopy and other. Consider iron 
replacement. 
[ ] f/u CPK on next visit.
[ ] the patient is prediabetic with an A1c of 6.1%. Please 
encourage lifestyle modifications and follow up A1c levels in 3 
months. 
[ ] Please follow up trace protein in urine and consider better 
quantification of proteinuria. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cialis (tadalafil) 10 mg oral PRN THIRTY MINUTES BEFORE 
SEXUAL ACTIVITY  
2. Cyanocobalamin 100 mcg PO DAILY 
3. PredniSONE 20 mg PO DAILY 

 
Discharge Medications:
1.  Cialis (tadalafil) 10 mg oral PRN THIRTY MINUTES BEFORE 
SEXUAL ACTIVITY   
2.  Cyanocobalamin 100 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Leukocytoclastic Vasculitis
# Leukocytosis
# Hyperglycemia
# Anemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___!

WHY WERE YOU ADMITTED?
-You were admitted for a worsening rash. 

WHAT HAPPENED IN THE HOSPITAL?
-You had a skin biopsy which showed "vasculitis" (inflammation 
of your blood vessels)
-You received steroids to treat your rash. 

WHAT SHOULD YOU DO AT HOME?
-You should continue to take your medications as prescribed. 
-You should follow-up with your doctors ___ as listed 
below. 
-You should avoid taking Augmentin (also known as Amoxicillin / 
Clavulanic acid) which is the likely cause of your rash.

Thank you for allowing us be involved in your care, we wish you 
all the best!

Your ___ Team
 
Followup Instructions:
___